US05164396
A quantity of 3.85 g of 1-t.butyl-3-phenylurea is stirred at 0° C. in 50 ml of dry diethyl ether. 1.95 ml of malonylchloride are slowly added dropwise to this solution. After the addition of a little triethylamine the reaction mixture is slowly heated to approximately 30° C. After 2 hours 50 ml of water are added. The ether layer is separated, washed with water, dried and evaporated. After recrystallisation from ethanol, 1-phenyl-3-t.butyl-barbituric acid is obtained in a yield of 0.6 g; melting-point 118°-125° C. The resulting product is acetylated as described in Example III, the title compound (28) being obtained; melting-point 145°-148° C.

reactant | butyl-3-phenylurea | C(CCC)NC(=O)NC1=CC=CC=C1 | C11H16N2O
reactant | malonylchloride | 1.95 ml | C(CC(=O)Cl)(=O)Cl | C3H2Cl2O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | butyl-barbituric acid | C(CCC)C1C(NC(NC1=O)=O)=O | C8H12N2O3
